US07691882B2
6-(2-Fluoro-phenoxy)-pyridine-3-carbaldehyde
To a mixture of 5-bromo-2-(2-fluoro-phenoxy)-pyridine (500 mg, 1.9 mmol) described in Manufacturing Example 74-1-1 and tetrahydrofuran (7 mL) was added n-butyl lithium (1.7 mL, 1.5 M n-hexane solution, 2.6 mmol) under nitrogen atmosphere at −78° C. N,N-dimethylformamide (0.29 mL, 3.7 mmol) was added to the reaction mixture at the same temperature, and the temperature was then gradually raised to 0° C. Water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (210 mg, 53%).

reactant | 5-bromo-2-(2-fluoro-phenoxy)-pyridine | 1.9 mmol, 500 mg | BrC=1C=CC(=NC1)OC1=C(C=CC=C1)F | C11H7BrFNO
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | n-butyl lithium | 2.6 mmol, 1.5 M, 1.7 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 3.7 mmol, 0.29 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 6-(2-Fluoro-phenoxy)-pyridine-3-carbaldehyde | 210 mg, 53% | FC1=C(OC2=CC=C(C=N2)C=O)C=CC=C1 | C12H8FNO2
